US09145419B2
28C. 4-(3-Iodoimidazo[1,2-b]pyridazin-8-yl)isoquinoline
To a solution of 4-(imidazo[1,2-b]pyridazin-8-yl)isoquinoline (220 mg, 0.893 mmol) in CHCl3 (10 mL) were added N-iodo succinimide (241 mg, 1.072 mmol) and TFA (0.275 mL, 3.57 mmol) In CHCl3 (1 mL). The reaction mixture was stirred at room temperature for 2 h and quenched with saturated NaHCO3. The layers were separated and the combined organic layer was washed with water and brine, dried over Na2SO4. The crude product was purified by BIOTAGE® (30-70% EtOAc/CH2Cl2, 0.8 L) to give the product (290 mg, 87%). 1H NMR (400 MHz, CDCl3) δ ppm 9.41 (1H, s), 8.72 (1H, s), 8.66 (1H, d, J=4.53 Hz), 8.07-8.17 (1H, m), 7.90 (1H, s), 7.71 (3H, d, J=3.02 Hz), 7.28 (3H, s), 7.26 (1H, d, J=4.53 Hz); LC/MS: Rt=1.53 min. LC/MS (Condition A): 373.08.

reactant | 4-(imidazo[1,2-b]pyridazin-8-yl)isoquinoline | 0.893 mmol, 220 mg | N=1C=CN2N=CC=C(C21)C2=CN=CC1=CC=CC=C21 | C15H10N4
reactant | N-iodo succinimide | 1.072 mmol, 241 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | TFA | 3.57 mmol, 0.275 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-Iodoimidazo[1,2-b]pyridazin-8-yl)isoquinoline | 290 mg, 87% | IC1=CN=C2N1N=CC=C2C2=CN=CC1=CC=CC=C21 | C15H9IN4
